US04957609
3-[(2-Iodophenyl)amino]-2-cyclohexen-1-one
A stirred mixture of 2-iodoaniline (22.2 g) and cyclohexane-1,3-dione (11.2 g) was heated under nitrogen at 120° for 1 h, cooled and the resulting solid pulverised under ether (300 ml). The mixture was filtered and the solid (30 g) recrystallised from acetone:hexane (1:1, 400 ml), giving the title compound as prisms m.p. 151°-3° (decomp.).

reactant | 2-iodoaniline | 22.2 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | cyclohexane-1,3-dione | 11.2 g | C1(CC(CCC1)=O)=O | C6H8O2
product | 3-[(2-Iodophenyl)amino]-2-cyclohexen-1-one | IC1=C(C=CC=C1)NC1=CC(CCC1)=O | C12H12INO
